US06939871B2
5-Amino-2,3-difluoro-4-hydroxy-benzoic acid methyl ester (D52)
A solution of 2,3-difluoro-4-hydroxy-5-nitro-benzoic acid methyl ester (2.2 g, 9.4 mmol) in methanol (100 mL) was stirred under atmospheric hydrogen at ambient temperature in the presence of 10% palladium on charcoal (0.8 g) for 3 hours. The mixture was filtered and the filtrate was evaporated in vacuo to give the title compound (1.9 g, 100%) as a colourless solid.

reactant | 2,3-difluoro-4-hydroxy-5-nitro-benzoic acid methyl ester | 9.4 mmol, 2.2 g | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])O)F)F)=O | C8H5F2NO5
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on charcoal | 0.8 g | [Pd] | Pd
product | 5-Amino-2,3-difluoro-4-hydroxy-benzoic acid methyl ester | 1.9 g, 100% | COC(C1=C(C(=C(C(=C1)N)O)F)F)=O | C8H7F2NO3
